US06352976B1
1.3 Synthesis of 2-bromopentanoyl-(L)-homophenylalanine methyl ester
Combine (L)-homophenylalanine methyl ester trifluoroacetic acid salt (3.6 g, 10 mmol), N-methylmorpholine (3.3 mL, 30 mmol), and dichloromethane (20 mL). Add 2-bromovaleric acid (2.0 mL, 15.3 mmol), hydroxybenzotriazole (2.07 g, 15.3 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.93 g, 15.3 mmol). After 1 hour, partition the reaction mixture between methyl t-butyl ether and an aqueous 5% sulfuric acid solution. Separate the layers, extract the organic layer with a saturated sodium bicarbonate solution and then brine. Dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 3/1 hexane/ethyl acetate and then 2.5/1 hexane/ethyl acetate to give the title compound: Rf=0.55 (silica gel, 1/1 ethyl acetate/hexane).

reactant | (L)-homophenylalanine methyl ester trifluoroacetic acid salt | 10 mmol, 3.6 g | FC(C(=O)O)(F)F.COC([C@@H](N)CCC1=CC=CC=C1)=O
reactant | N-methylmorpholine | 30 mmol, 3.3 mL | CN1CCOCC1 | C5H11NO
reactant | 2-bromovaleric acid | 15.3 mmol, 2.0 mL | BrC(C(=O)O)CCC | C5H9BrO2
reactant | hydroxybenzotriazole | 15.3 mmol, 2.07 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 15.3 mmol, 2.93 g | Cl.CN(CCCN=C=NCC)C
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-bromopentanoyl-(L)-homophenylalanine methyl ester | COC([C@@H](NC(C(CCC)Br)=O)CCC1=CC=CC=C1)=O | C16H22BrNO3
